US06599902B2
Synthesis of 3-{2,4-Dimethyl-5-[2-oxo-5-phenylmethanesulfonyl-1,2-dihydro-indol-(3Z)-ylidenemethyl]-1H-pyrrol-3-yl}-propionic acid
5-Phenylmethanesulfonyl-1,3-dihydro-indol-2-one was condensed with 3-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid to give the titled compound.

reactant | 5-Phenylmethanesulfonyl-1,3-dihydro-indol-2-one | C1(=CC=CC=C1)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H13NO3S
reactant | 3-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid | C(=O)C1=C(C(=C(N1)C)CCC(=O)O)C | C10H13NO3
product | 3-{2,4-Dimethyl-5-[2-oxo-5-phenylmethanesulfonyl-1,2-dihydro-indol-(3Z)-ylidenemethyl]-1H-pyrrol-3-yl}-propionic acid | CC=1NC(=C(C1CCC(=O)O)C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=CC=CC=C1)=O | C25H24N2O5S
